US07049313B2
(4-Hydroxy-9H-thioxanthen-1-yl)-carbamic acid tert-butyl ester
To a solution of 1-amino-9H-thioxanthen-4-ol (7.57 g, 33.00 mmol) in dry THF (50 ml) was added di-tertiary butyl dicarbonate (20 g, 91.64 mmol) in a single portion. The reaction was stirred at room temperature for 4 hours before the addition of methanol (50 mL) and solid NaOH (10 g, 250 mmol). The resulting slurry was stirred at room temperature for 1 hr before the addition of H2O (250 ml) and EtOAc (250 ml). The organic extract was removed and the remaining aqueous extracted further with EtOAc (2×50 ml). The combined organics were then dried using MgSO4, filtered and concentrated in vacuo to give the title compound a dark amber oil (10.87 g, 92%) m/z (LC-MS, ESP): 328 [M−H]−, R/T=4.73 mins

reactant | 1-amino-9H-thioxanthen-4-ol | 33.00 mmol, 7.57 g | NC1=CC=C(C=2SC3=CC=CC=C3CC12)O | C13H11NOS
reactant | di-tertiary butyl dicarbonate | 91.64 mmol, 20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methanol | 50 mL | CO | CH4O
reactant | NaOH | 250 mmol, 10 g | [OH-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 250 ml | CCOC(=O)C | C4H8O2
solvent | H2O | 250 ml | O | H2O
product | (4-Hydroxy-9H-thioxanthen-1-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=2SC3=CC=CC=C3CC12)O)=O | C18H19NO3S
